US06365564B1
A dry, 3-necked, round-bottomed flask equipped with a mechanical stirrer under an inert atmosphere is charged with 41.6 g (0.25 mol, ) of cinnamoyl chloride (available from Aldrich Chemical Company, Inc. of Milwaukee, Wis.) and 150 mL of CH2Cl2 (available from Aldrich Chemical Company). The stirred, homogeneous solution is cooled to −40° C. (CH3CN/CO2 bath), and 22.0 mL (0.275 mol) of pyridine (available from Aldrich Chemical Company) is added slowly (keeping solution temperature below −30° C.) in one portion. The reaction mixture is stirred for 20 min at which point a precipitate is observed. To the stirred heterogeneous solution is added 19.0 mL (0.25 mol) of N-methyl acetamide (available from Aldrich Chemical Company) in one portion. The resulting reaction mixture is allowed to warm gradually to room temperature and is stirred overnight. The reaction is diluted with 150 mL of CH2Cl2 and extracted twice with 150 mL of 1 N HCl, twice with 0.1 N aqueous NaOH, and twice with water. The organic layer is dried over Na2SO4, and concentrated by rotory evaporation to give the desired N-cinnamoyl-N-methyl acetamide.

reactant | cinnamoyl chloride | 0.25 mol, 41.6 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | CH3CN CO2 | CC#N.C(=O)=O
reactant | pyridine | 0.275 mol, 22.0 mL | N1=CC=CC=C1 | C5H5N
reactant | N-methyl acetamide | 0.25 mol, 19.0 mL | CNC(C)=O | C3H7NO
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-cinnamoyl-N-methyl acetamide | C(C=CC1=CC=CC=C1)(=O)N(C(C)=O)C | C12H13NO2
